US05792760
5-carboxamidoindole
To a solution of 8.06 gm (50 mmol) indole-5-carboxylic acid in 150 ml dimethylformamide were added 8.11 gm (50 mmol) carbonylidiimidazole and the reaction mixture stirred at ambient temperature for 3 hours. The reaction mixture was then added dropwise to 150 ml concentrated ammonium hydroxide and the reaction mixture was stirred for 18 hours at ambient temperature. The reaction mixture was concentrated under reduced pressure to give a viscous oil which was subjected to silica gel chromatography, eluting with a gradient of dichloromethane containing 0-10% methanol. Fractions shown to contain product were combined and concentrated under reduced pressure to give the title compound as an oil which crystallizes upon standing.

reactant | indole-5-carboxylic acid | 50 mmol, 8.06 gm | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | ammonium hydroxide | 150 ml | [OH-].[NH4+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-carboxamidoindole | C1=CC2=C(C=CN2)C=C1C(=O)N | C9H8N2O
